US04579848
2-Methyl-4-pyridinecarboximidamide, hydrochloride
A 17.2 g portion of 4-cyano-2-picoline [E. Ochiai and I. Suzuki, Pharm. Bull. (Japan), 2, 147 (1954)] was dissolved in 150 ml of methanol, 756 mg of sodium methoxide was added and the mixture was stirred overnight. A 7.9 g portion of ammonium chloride was added and the mixture was heated to reflux, then cooled to room temperature, giving 15 g of the desired compound, mp 168°-178° C.

reactant | 4-cyano-2-picoline | C(#N)C1=CC(=NC=C1)C | C7H6N2
reactant | sodium methoxide | 756 mg | C[O-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 150 ml | CO | CH4O
product | 2-Methyl-4-pyridinecarboximidamide, hydrochloride | 15 g | Cl.CC1=NC=CC(=C1)C(N)=N | InChI=1S/C7H9N3.ClH/c1-5-4-6(7(8)9)2-3-10-5;/h2-4H,1H3,(H3,8,9);1H
